datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(Cl)C(=O)[O-:10].CCC1=C(C)[NH+:21]([H:20])C=C1C>>CC(Cl)C(=O)[O:10][H:20].CCC1=C(C)[NH:21]C=C1C 10=20;20,21=21",
"CC1(C)NC(C)(C)[N+]([O-:10])=C1c1ccccc1.Cc1nsc([S:21][H:20])n1>>CC1(C)NC(C)(C)[N+]([O:10][H:20])=C1c1ccccc1.Cc1nsc([S-:21])n1 10=20;20,21=21",
"Clc1cccc(Cl)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Clc1cccc(Cl)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([C@@H]1O[C@H](Oc2ccc3[nH+]ccc(O)c3c2)[C@@H](O)[C@H](O)[C@H]1O)[O-:10].O=C(c1cc[n+]([O-])cc1)[O:21][H:20]>>O=C([C@@H]1O[C@H](Oc2ccc3[nH+]ccc(O)c3c2)[C@@H](O)[C@H](O)[C@H]1O)[O:10][H:20].O=C(c1cc[n+]([O-])cc1)[O-:21] 10=20;20,21=21",
"CNc1nc[n+:21]([H:20])c2nc[nH]c12.O=C(NC[O-:10])c1ccccc1>>CNc1nc[n:21]c2nc[nH]c12.O=C(NC[O:10][H:20])c1ccccc1 10=20;20,21=21",
"NC(CC/C(N)=[N:10]\O)=NO.O=C([O-])CC[S:21][H:20]>>NC(CC/C(N)=[N+:10](\O)[H:20])=NO.O=C([O-])CC[S-:21] 10=20;20,21=21",
"COC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.[O-][N+]([O-])=C(CO)C[O-:10]>>COC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.[O-][N+]([O-])=C(CO)C[O:10][H:20] 10=20;20,21=21",
"CC(C(N)=O)S(=O)(=O)[NH:21][H:20].S=C(c1ccccc1)[N-:10]c1ccc(Cl)c(Cl)c1>>CC(C(N)=O)S(=O)(=O)[NH-:21].S=C(c1ccccc1)[N:10](c1ccc(Cl)c(Cl)c1)[H:20] 10=20;20,21=21",
"N#CC(C#N)=N[N:21](c1cccc(Cl)c1Cl)[H:20].O=C(O)CC(=O)CC(=O)/C=C/C(=O)[O-:10]>>N#CC(C#N)=N[N-:21]c1cccc(Cl)c1Cl.O=C(O)CC(=O)CC(=O)/C=C/C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1cccc(S(=O)(=O)[NH:21][H:20])c1.Nc1cc([NH2:10])ccc1O>>Cc1cccc(S(=O)(=O)[NH-:21])c1.Nc1cc([NH2+:10][H:20])ccc1O 10=20;20,21=21",
"CC(=O)[S:21][H:20].O=C(NCC(=O)[O-:10])c1ccccc1O>>CC(=O)[S-:21].O=C(NCC(=O)[O:10][H:20])c1ccccc1O 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-:10])[C@H]1CC(=O)OC.Cc1ccccc1NC(=O)C[N+:21]1([H:20])CCCCC1>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O:10][H:20])[C@H]1CC(=O)OC.Cc1ccccc1NC(=O)C[N:21]1CCCCC1 10=20;20,21=21",
"CCCC[NH:10]CCC#N.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCC[NH+:10](CCC#N)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)c1ccc(C(O)c2ccc([N+:21](C)(C)[H:20])cc2)cc1.Cc1ccc(C)c([O-:10])c1>>CN(C)c1ccc(C(O)c2ccc([N:21](C)C)cc2)cc1.Cc1ccc(C)c([O:10][H:20])c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc2c(CC[NH2:10])c[nH]c2c1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc2c(CC[NH2+:10][H:20])c[nH]c2c1 10=20;20,21=21",
"CCCCCC[N:10](CC(O)CC)CC(O)CC.O=C([O-])C(CC1=CNC(=S)N1)[NH2+:21][H:20]>>CCCCCC[N+:10](CC(O)CC)(CC(O)CC)[H:20].O=C([O-])C(CC1=CNC(=S)N1)[NH2:21] 10=20;20,21=21",
"CC(C)c1ccccc1C(=O)[O-:10].CCCCNc1c(C)cc(-c2ccccc2)n[n+:21]1[H:20]>>CC(C)c1ccccc1C(=O)[O:10][H:20].CCCCNc1c(C)cc(-c2ccccc2)n[n:21]1 10=20;20,21=21",
"Cc1cccc(-c2nnn[n-:10]2)c1.NC(=O)CCCCCCCCC(=O)N[O:21][H:20]>>Cc1cccc(-c2nnn[n:10]2[H:20])c1.NC(=O)CCCCCCCCC(=O)N[O-:21] 10=20;20,21=21",
"NC1=[N+:21]([H:20])C(CC(=O)[O-])C(=O)N1CCCC(N)C(=O)[O-].c1ccc(C2CCC[NH:10]2)cc1>>NC1=[N:21]C(CC(=O)[O-])C(=O)N1CCCC(N)C(=O)[O-].c1ccc(C2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"CC(C)N(C(=S)[S-:10])C(C)C.Clc1cc(Cl)c2cccnc2c1[O:21][H:20]>>CC(C)N(C(=S)[S:10][H:20])C(C)C.Clc1cc(Cl)c2cccnc2c1[O-:21] 10=20;20,21=21",
"CC(C)(C)CC(C)(C)[NH2+:21][H:20].O=[N+]([O-])c1cccc2c1c(NCCCO)c1ccccc1[n:10]2>>CC(C)(C)CC(C)(C)[NH2:21].O=[N+]([O-])c1cccc2c1c(NCCCO)c1ccccc1[n+:10]2[H:20] 10=20;20,21=21",
"C[NH:10]c1cccc2ccccc12.c1ccc(-c2cccc(-c3cccc[n+:21]3[H:20])n2)[nH+]c1>>C[NH+:10](c1cccc2ccccc12)[H:20].c1ccc(-c2cccc(-c3cccc[n:21]3)n2)[nH+]c1 10=20;20,21=21",
"CC(=O)/C(C[NH+]1CCCCC1)=N\[O-:10].C[N+:21](C)(C([O-])O)[H:20]>>CC(=O)/C(C[NH+]1CCCCC1)=N\[O:10][H:20].C[N:21](C)C([O-])O 10=20;20,21=21",
"NNC(=O)C(Cc1c[nH]c[n:10]1)NC(=O)OCc1ccccc1.c1nc(Cc2c[nH]c(Cc3nc(Cc4c[n+:21]([H:20])c[nH]4)c[nH]3)[nH+]2)c[nH]1>>NNC(=O)C(Cc1c[nH]c[n+:10]1[H:20])NC(=O)OCc1ccccc1.c1nc(Cc2c[nH]c(Cc3nc(Cc4c[n:21]c[nH]4)c[nH]3)[nH+]2)c[nH]1 10=20;20,21=21",
"C[NH+]1CCCC1c1ccc(Cl)[n+:21]([H:20])c1.NC(=[NH2+])Nc1nc(N)nc(NC(N)=[NH:10])n1>>C[NH+]1CCCC1c1ccc(Cl)[n:21]c1.NC(=[NH2+])Nc1nc(N)nc(NC(N)=[NH+:10][H:20])n1 10=20;20,21=21",
"Brc1cc2c(cc1[NH2:10])CCCC2.Cc1cccc2[nH]c[n+:21]([H:20])c12>>Brc1cc2c(cc1[NH2+:10][H:20])CCCC2.Cc1cccc2[nH]c[n:21]c12 10=20;20,21=21",
"Cc1nc(N)nc(N)[n+:21]1[H:20].c1cnc2cc([O-:10])ccc2n1>>Cc1nc(N)nc(N)[n:21]1.c1cnc2cc([O:10][H:20])ccc2n1 10=20;20,21=21",
"NC(=O)CCC(N)C(=O)[O:21][H:20].OCC(S)C[S-:10]>>NC(=O)CCC(N)C(=O)[O-:21].OCC(S)C[S:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(Cc1cn2nc(-c3ccccc3)cc(C)c2n1)[H:20].COc1cc(/C=N/c2ncc3nc[nH]c3n2)ccc1[O-:10]>>CC[N:21](CC)Cc1cn2nc(-c3ccccc3)cc(C)c2n1.COc1cc(/C=N/c2ncc3nc[nH]c3n2)ccc1[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(OC(=O)CCC[N+:21](C)(C)[H:20])cc1.O=C(NCCC[N:10]1CCOCC1)c1ccc(Cl)cc1>>Cc1ccc(OC(=O)CCC[N:21](C)C)cc1.O=C(NCCC[N+:10]1([H:20])CCOCC1)c1ccc(Cl)cc1 10=20;20,21=21",
"Clc1cccc([O:21][H:20])c1.O=C(CCCc1ccccc1)[O-:10]>>Clc1cccc([O-:21])c1.O=C(CCCc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C[NH+](C)C)c([O:21][H:20])c(C[NH+](C)C)c1.O=C1CCC(C(=O)[O-:10])N1>>Cc1cc(C[NH+](C)C)c([O-:21])c(C[NH+](C)C)c1.O=C1CCC(C(=O)[O:10][H:20])N1 10=20;20,21=21",
